US07820683B2
A mixture of 5-nitro-1-(pyridin-2-ylmethyl)-1H-indazole (34 g, 134 mmol) and platinum(IV) oxide (1 g) in methanol (500 ml) was hydrogenated under a 1 bar pressure. After 4 hours (when absorption of hydrogen had stopped), the mixture was filtered on celite. The filtrate was evaporated under reduced pressure. The residue was triturated in ether to give 1-(pyridin-2-ylmethyl)-1H-indazol-5-amine as an off-white solid (28.6 g, 95%); NMR Spectrum (CDCl3) 3.61 (m, 2H), 5.67 (m, 2H), 6.78 (d, 1H), 6.82 (dd, 1H), 6.95 (d, 1H), 7.16 (m, 1H), 7.20 (d, 1H), 7.53 (m, 1H), 7.87 (s, 1H), 8.57 (d, 1H); Mass spectrum MH+ 225.

reactant | 5-nitro-1-(pyridin-2-ylmethyl)-1H-indazole | 134 mmol, 34 g | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1 | C13H10N4O2
solvent | methanol | 500 ml | CO | CH4O
catalyst | platinum(IV) oxide | 1 g | [Pt](=O)=O
product | 1-(pyridin-2-ylmethyl)-1H-indazol-5-amine | 28.6 g, 95% | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)N | C13H12N4
